US06964966B2
Powdered KOH (0.92 g, 16.44 mmol) was added in portions to the stirred solution of methylamine hydrochloride (1.11 g, 16.44 mmol) in methanol (20 ml) at 0-5° C. and 1-carbethoxy-3,5-dimethyl-4-piperidinone (2.2 g, 1.1 mmol),obtained by a procedure as described in Example 25 (Step-1), was added in portions to it. The resulting reaction mixture was stirred for 45 min at 10° C. and a solution of sodium cyanoboro-hydride (0.7 g, 1.1 mmol) in methanol (5 ml) was added dropwise to it. Cooling was removed and stirring was for 24 hr at 30° C. The reaction mixture was basified with 20% KOH solution, filtered (to remove insoluble impurities) and filtrate was concentrated to dryness. The obtained residue was dissolved in water and extracted with chloroform. Chloroform layer was extracted with 50% HCl and acid layer was basified with 20% KOH solution. The separated oil was extracted with chloroform, dried (Na2SO4) and concentrated to give a Mixtures A+B of 4-methylamino-1-carbethoxy-3,5-dimethylpiperidine. Yield 1.34 g (60%), C11H22N2O2, m/z 214 (M+1).

reactant | KOH | 16.44 mmol, 0.92 g | [OH-].[K+]
reactant | methylamine hydrochloride | 16.44 mmol, 1.11 g | Cl.CN
reactant | 1-carbethoxy-3,5-dimethyl-4-piperidinone | 1.1 mmol, 2.2 g | C(=O)(OCC)N1CC(C(C(C1)C)=O)C | C10H17NO3
reactant | sodium cyanoboro-hydride | 1.1 mmol, 0.7 g | C(#N)[BH3-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 4-methylamino-1-carbethoxy-3,5-dimethylpiperidine | CNC1C(CN(CC1C)C(=O)OCC)C | C11H22N2O2
